### PR TITLE
[Merged by Bors] - feat: structure sheaf of a manifold 

### PR DESCRIPTION
**Pull request by hrmacbeth**
In https://github.com/leanprover-community/mathlib/pull/19146, we defined `StructureGroupoid.LocalInvariantProp.sheaf`, the sheaf-of-types of functions `f : M → M'` (for charted spaces `M`, `M'`) satisfying some local property in the sense of `StructureGroupoid.LocalInvariantProp` (for example continuity, differentiability, smoothness).

In this PR, in the case of smoothness, we upgrade this to a sheaf of groups if `M'` is a Lie group, a sheaf of abelian groups if `M'` is an abelian Lie group, and a sheaf of rings if `M'` is a "smooth ring".

Co-authored-by: Adam Topaz <github@adamtopaz.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

This PR replaces the mathlib3 PR https://github.com/leanprover-community/mathlib/pull/19094, which I will now close.

~~A few things had to be manually to-additivized (and had not needed to be in Lean 3), expert help welcome!~~ fixed by Floris

### CODE REVIEW

File: Mathlib/Topology/Category/TopCat/Basic.lean [hunk 1]
```diff
@@ -48,6 +49,7 @@ instance concreteCategory : ConcreteCategory TopCat := by
   dsimp [TopCat]
   infer_instance
 
+@[to_additive existing TopCat.instCoeSortTopCatType]
 instance : CoeSort TopCat (Type*) :=
```
Comment (ocfnash) [inline Mathlib/Topology/Category/TopCat/Basic.lean:53]: Given that the name is used explicitly in `to_additive` I think it's worth naming this:
```suggestion
instance instCoeSortTopCatType : CoeSort TopCat (Type*) :=
```
(and anyway, instance naming is a Good Thing, especially in Lean 4).

File: Mathlib/Geometry/Manifold/Sheaf/Smooth.lean [hunk 2]
```diff
@@ -0,0 +1,403 @@
...
+Similarly, there are variants of `smoothSheafCommRing.forgetStalk` and `smoothSheafCommRing.eval`
+for `GroupCat`, `CommGroupCat` and `RingCat` which can be added as needed.
+
+Currently there is a universe restriction: one can consider the sheaf of smooth functions from `M`
+to `N` only if `M` and `N` are in the same universe.  For example, since `ℂ` is in `Type`, we can
+only consider the structure sheaf of complex manifolds in `Type`, which is unsatisfactory. The
+obstacle here is in the underlying category theory constructions, and there is WIP (as of June 2023)
+to fix this.  See
+https://github.com/leanprover-community/mathlib/pull/19153
+and cross-references there.
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/Sheaf/Smooth.lean:57]: It would be nice to give a bit more detail here.

I looked at https://github.com/leanprover-community/mathlib/pull/19153 and there are some useful references but I didn't really feel this enhanced my understanding beyond "some parts of the category theory library are probably not sufficiently universe polymorphic".

File: Mathlib/Geometry/Manifold/Sheaf/Smooth.lean [hunk 3]
```diff
@@ -0,0 +1,403 @@
...
+section TypeCat
+
+/-- The sheaf of smooth functions from `M` to `N`, as a sheaf of types. -/
+def smoothSheaf : TopCat.Sheaf (Type u) (TopCat.of M) :=
+  (contDiffWithinAt_localInvariantProp IM I ⊤).sheaf M N
+
+variable {M}
+
+instance smoothSheaf.coeFun (U : (Opens (TopCat.of M))ᵒᵖ) :
+    CoeFun ((smoothSheaf IM I M N).val.obj U) (fun _ ↦ ↑(unop U) → N) :=
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/Sheaf/Smooth.lean:86]: Is this a job for `TopCat.Sheaf.presheaf`:
```suggestion
    CoeFun ((smoothSheaf IM I M N).presheaf.obj U) (fun _ ↦ ↑(unop U) → N) :=
```
(and also in 21 more occurrences below)

File: Mathlib/Geometry/Manifold/Sheaf/Smooth.lean [hunk 4]
```diff
@@ -0,0 +1,403 @@
...
+  apply TopCat.stalkToFiber_surjective
+  intro n
+  exact ⟨⊤, fun _ ↦ n, smooth_const, rfl⟩
+
+variable {IM I N}
+
+@[simp] lemma smoothSheaf.eval_germ (U : Opens (TopCat.of M)) (x : U)
+    (f : (smoothSheaf IM I M N).val.obj (op U)) :
+    smoothSheaf.eval IM I N (x : TopCat.of M) ((smoothSheaf IM I M N).presheaf.germ x f)
+    = f x :=
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/Sheaf/Smooth.lean:131]:
```suggestion
    smoothSheaf.eval IM I N (x : TopCat.of M) ((smoothSheaf IM I M N).presheaf.germ x f) = f x :=
```

File: Mathlib/Geometry/Manifold/Sheaf/Smooth.lean [hunk 5]
```diff
@@ -0,0 +1,403 @@
...
+  TopCat.stalkToFiber_germ _ U x f
+
+lemma smoothSheaf.smooth_section {U : (Opens (TopCat.of M))ᵒᵖ}
+    (f : (smoothSheaf IM I M N).val.obj U) :
+    Smooth IM I f :=
+(contDiffWithinAt_localInvariantProp IM I ⊤).section_spec _ _ _ _
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/Sheaf/Smooth.lean:137]:
```suggestion
  (contDiffWithinAt_localInvariantProp IM I ⊤).section_spec _ _ _ _
```

File: Mathlib/Geometry/Manifold/Sheaf/Smooth.lean [hunk 6]
```diff
@@ -0,0 +1,403 @@
...
+    colimit.ι ((OpenNhds.inclusion x).op ⋙ (smoothSheaf IM I M R).presheaf) U :=
+  ι_preservesColimitsIso_hom _ _ _
+
+@[simp, reassoc, elementwise] lemma smoothSheafCommRing.ι_forgetStalk_inv (x : TopCat.of M) (U) :
+    colimit.ι ((OpenNhds.inclusion x).op ⋙ (smoothSheaf IM I M R).val) U ≫
+    (smoothSheafCommRing.forgetStalk IM I M R x).inv =
+    (forget CommRingCat).map
+      (colimit.ι ((OpenNhds.inclusion x).op ⋙ (smoothSheafCommRing IM I M R).val) U) := by
+  rw [Iso.comp_inv_eq, ← smoothSheafCommRing.ι_forgetStalk_hom]
+  rfl
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/Sheaf/Smooth.lean:349]: I think it's better not to lean so hard on `rfl` in situations like this:
```suggestion
  rw [Iso.comp_inv_eq, ← smoothSheafCommRing.ι_forgetStalk_hom, CommRingCat.forget_map]
  simp_rw [Functor.comp_obj, Functor.op_obj]
```
or even
```lean
  rw [← smoothSheafCommRing.ι_forgetStalk_hom]
  simp
```

File: Mathlib/Geometry/Manifold/Sheaf/Smooth.lean [hunk 7]
```diff
@@ -0,0 +1,403 @@
...
+    (smoothSheafCommRing IM I M R).val.obj (Opposite.op U.1) ⟶ CommRingCat.of R :=
+  SmoothMap.evalRingHom ⟨x, U.2⟩
+
+/-- Canonical ring homomorphism from the stalk of `smoothSheafCommRing IM I M R` at `x` to `R`,
+given by evaluating sections at `x`, considered as a morphism in the category of commutative rings.
+-/
+def smoothSheafCommRing.evalHom (x : TopCat.of M) :
+    (smoothSheafCommRing IM I M R).presheaf.stalk x ⟶ CommRingCat.of R := by
+  refine CategoryTheory.Limits.colimit.desc _ ⟨_, ⟨fun U ↦ ?_, ?_⟩⟩
+  · exact smoothSheafCommRing.evalAt _ _ _ _ _ _
```
Comment (ocfnash) [inline Mathlib/Geometry/Manifold/Sheaf/Smooth.lean:363]:
```suggestion
  · apply smoothSheafCommRing.evalAt
```

**Review by ocfnash — APPROVED** [review]
Just a few nitpicks: let's get this merged!

I also looked over the conversation at https://github.com/leanprover-community/mathlib/pull/19094 and I note that there is nothing pending from there (except the declared-out-of-scope approach of "interpreting Lawvere theories in categories with finite products" to avoid repetition).

bors d+

**Comment by fpvandoorn** [comment]
To fix the `to_additive` issues, we need:
```
attribute [to_additive existing TopologicalSpace] TopologicalSpace
```
(this is to enable/work around the heuristics of `to_additive` - this should probably be done in `TopologicalSpace.Basic`)

`noncomputable` in front of every declaration that you additivize. This is issue https://github.com/leanprover/lean4/pull/2610

See: https://github.com/leanprover-community/mathlib4/commit/b69521d4574519c08dfe2d73a4f13a326ce84e07

File: Mathlib/Geometry/Manifold/Sheaf/Smooth.lean (hunk 3 above)
Comment (hrmacbeth) [reply Mathlib/Geometry/Manifold/Sheaf/Smooth.lean]: Done!

File: Mathlib/Geometry/Manifold/Sheaf/Smooth.lean (hunk 2 above)
Comment (hrmacbeth) [reply Mathlib/Geometry/Manifold/Sheaf/Smooth.lean]: a7d51ddc756fe498640cb0a10069e2c735b6d10a updates to what I think is the current status here. @semorrison Could you look at that diff to see whether it's an accurate description?

File: Mathlib/Geometry/Manifold/Sheaf/Smooth.lean [hunk 8]
```diff
@@ -0,0 +1,360 @@
...
+for `GroupCat`, `CommGroupCat` and `RingCat` which can be added as needed.
+
+Currently there is a universe restriction: one can consider the sheaf of smooth functions from `M`
+to `N` only if `M` and `N` are in the same universe.  For example, since `ℂ` is in `Type`, we can
+only consider the structure sheaf of complex manifolds in `Type`, which is unsatisfactory. The
+obstacle here is in the underlying category theory constructions, which are not sufficiently
+universe polymorphic.  A direct attempt to generalize the universes worked in Lean 3 but was
+reverted because it was hard to port to Lean 4, see
+https://github.com/leanprover-community/mathlib/pull/19230
+The current (Oct 2024) proposal to permit these generalizations is to use the new `UnivLE`
```
Comment (hrmacbeth) [inline Mathlib/Geometry/Manifold/Sheaf/Smooth.lean:58]:
```suggestion
The current (Oct 2023) proposal to permit these generalizations is to use the new `UnivLE`
```

File: Mathlib/Geometry/Manifold/Sheaf/Smooth.lean (hunk 2 above)
Comment (semorrison) [reply Mathlib/Geometry/Manifold/Sheaf/Smooth.lean]: LGTM.
